US03962438
10-Trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione-7-oxide
m-Chloroperbenzoic acid (1.9 g., 0.011 mol.) was added portion-wise to a cold (0-5°), stirred solution of 3.36 g. (0.01 mol.) of 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione in 35 ml. of absolute methanol. The reaction mixture was stirred in the cold for one hour, then an additional four hours at ambient temperature. The reaction mixture was chilled and the precipitated product was collected by filtration and washed with ice-cold methanol to give the title compound, m.p. 302-304° (methanol).

reactant | m-Chloroperbenzoic acid | 0.011 mol, 1.9 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | 10-trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione | 0.01 mol | FC(C1=CC=2N3C4=C(C=CC=C4SC2C=C1)C(NC3=O)=O)(F)F | C15H7F3N2O2S
solvent | methanol | CO | CH4O
product | 10-Trifluoromethyl-1H-pyrimido[5,4,3-kl]phenothiazine-1,3(2H)-dione-7-oxide | FC(C1=CC=2N3C4=C(C=CC=C4S(C2C=C1)=O)C(NC3=O)=O)(F)F | C15H7F3N2O3S
